US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(4-trifluoromethylphenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 4-trifluoromethylphenylboronic acid (161 mg, 0.85 mmol) the subtitle compound was obtained (204 mg, 58%). 1H NMR (DMSO) δ 8.64(d, 1H), 8.46(dd, 1H), 8.16(d, 1H), 7.97(d, 2H), 7.92(d, 1H), 7.85–7.78(m, 3H), 7.63(d, 1H), 4.05(s, 3H).

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 4-trifluoromethylphenylboronic acid | 0.85 mmol, 161 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(4-trifluoromethylphenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C21H13F3N2O4
